US04062798
1.9 g. of 4-(4-n-heptylpyrimid-2-yl)benzoic acid amide are left for 80 minutes under reflux in a mixture of 40 ml. of ethylene chloride and 0.63 ml. of phosphorus oxychloride, with stirring. The reaction mixture, diluted with ether, is washed with 2N sodium hydroxide solution and then with water until neutral. After evaporation of the organic phase, drying over sodium sulfate, 1.9 g. of 5-n-heptyl-2-(4-cyanophenyl)-pyrimidine result, which are distilled in a high vacuum, having a m.p. of 44.2°-44.7°; cl.p. 50.1°-50.4°.

reactant | 4-(4-n-heptylpyrimid-2-yl)benzoic acid amide | C(CCCCCC)C1=NC(=NC=C1)C1=CC=C(C(=O)N)C=C1 | C18H23N3O
reactant | ethylene chloride | C(CCl)Cl | C2H4Cl2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ether | CCOCC | C4H10O
product | 5-n-heptyl-2-(4-cyanophenyl)-pyrimidine | C(CCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)C#N | C18H21N3
